US06344460B1
Preparation of 1N-(3-iodo-2-propynyl)-3N-(2-furanyl)-5-fluorouracil
The procedure in Example 1 was repeated, except that 2.0477 g of 3N-(2-furanyl)-5-fluorouracil (ftorafur) (10.23 mmole) available from Aldrich Chemical Co. was used instead of 5-chlorouracil and 3.6089 g of iodopropargyl 4-methylbenzenesulfonate (10.741 mmole) and 1.060 g (7.67 mmole) of potassium carbonate were used.

reactant | (2-furanyl)-5-fluorouracil | 10.23 mmole | O1C(=CC=C1)N1C(NC=C(C1=O)F)=O | C8H5FN2O3
reactant | 5-chlorouracil | ClC=1C(NC(NC1)=O)=O | C4H3ClN2O2
reactant | iodopropargyl 4-methylbenzenesulfonate | 10.741 mmole, 3.6089 g | CC1=CC=C(C=C1)S(=O)(=O)OC(C#C)I | C10H9IO3S
reactant | potassium carbonate | 7.67 mmole, 1.060 g | C([O-])([O-])=O.[K+].[K+]
product | (3-iodo-2-propynyl)-3N-(2-furanyl)-5-fluorouracil | IC#CCC1=C(C(N(C(N1)=O)C=1OC=CC1)=O)F | C11H6FIN2O3
